US05652271
A stirred mixture of 1-chloro-3-(dipropylamino)-propane hydrochloride (42 g), thiourea (15.5 g) and ethanol (250 ml) was heated under reflux for 24 hours then allowed to cool to ambient temperature. Ethyl acetate was added until a faint opalescence was observed, then the mixture was stored at 4° C. for 24 hours. After this time it had deposited an oil which was isolated by decantation of the bulk of the solvent followed by removal of residual solvent in vacuo. The oil was triturated with ethanol, the solvent was removed by decantation, and the residue was dried in vacuo at ambient temperature for 24 hours to give a pale brown solid. The ethanol solution decanted from the oil was concentrated in vacuo, and the residue was triturated with ethanol as described above to give a second crop of pale brown solid. The ethanol solution remaining after isolation of the second crop was concentrated in vacuo and the residue was triturated with propan-2-ol to give a third crop of solid. The three crops were combined to give S-[3-(dipropylamino)propyl]isothiourea dihydrochloride as a pale brown solid (51 g), m.p 143°-145° C.

reactant | 1-chloro-3-(dipropylamino)-propane hydrochloride | 42 g | Cl.ClCCCN(CCC)CCC
reactant | thiourea | 15.5 g | NC(=S)N | CH4N2S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | S-[3-(dipropylamino)propyl]isothiourea dihydrochloride | 51 g | Cl.Cl.C(CC)N(CCCSC(N)=N)CCC | InChI=1S/C10H23N3S.2ClH/c1-3-6-13(7-4-2)8-5-9-14-10(11)12;;/h3-9H2,1-2H3,(H3,11,12);2*1H
